US08283353B2
4′-{[7-butyl-5-oxo-4-(4-oxocyclohexyl)-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of 4′-{[7-butyl-4-(1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (3.1 g), p-toluenesulfonic acid monohydrate (0.1 g), methanol (50 mL) and tetrahydrofuran (50 mL) was stirred at 60° C. for 16 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was dissolved in acetone (20 mL), 1 N hydrochloric acid (20 mL) was added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (2 g, 67%).

reactant | 4′-{[7-butyl-4-(1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 3.1 g | C(CCC)C1=C(C(N(C=2N1N=CN2)C2CCC1(OCCO1)CC2)=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N | C31H33N5O3
reactant | p-toluenesulfonic acid monohydrate | 0.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | methanol | 50 mL | CO | CH4O
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-{[7-butyl-5-oxo-4-(4-oxocyclohexyl)-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 2 g, 67% | C(CCC)C1=C(C(N(C=2N1N=CN2)C2CCC(CC2)=O)=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N | C29H29N5O2
